US09193693B2
To a solution of methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (50 mg, 0.15 mmol, 1.00 equiv) in DMF (10 mL) was added 1-phenylpiperazine (50 mg, 0.31 mmol, 2.00 equiv) and DIEA (100 mg, 0.78 mmol, 5.3 equiv). The resulting solution was placed in a 20-mL sealed tube, stirred overnight at 100° C. in an oil bath, then concentrated under vacuum. Purification via silica gel column (ethyl acetate/petroleum ether (1:10)) yielded 70 mg (crude) of methyl 2-phenyl-3-(4-phenylpiperazin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.15 mmol, 50 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 1-phenylpiperazine | 0.31 mmol, 50 mg, 2.00 equiv | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DIEA | 0.78 mmol, 100 mg, 5.3 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-phenyl-3-(4-phenylpiperazin-1-yl)quinoxaline-6-carboxylate | 70 mg | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=CC=CC=C1)C(=O)OC | C26H24N4O2
